US07067517B2
Methyl-phenyl-carbamic acid quinoxalin-2-yl ester
A mixture of 2-hydroxyquinoxaline (0.44 g, 3.00 mmol) ), 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide (1.03 9, 3.00 mmol) and triethylamine (0.42 ml, 3.00 mmol) in acetonitrile (15 ml) was stirred at room temperature for 18 hours followed by heating at 40° C. for 24 hours. The solvent was evaporated in vacuo and the residue was purified by flash column chromatography (SiO2, ethyl acetate:heptane (30:70)) yielding the title compound (0.65 g, 77% yield) as a white solid.

reactant | 2-hydroxyquinoxaline | 3.00 mmol, 0.44 g | OC1=NC2=CC=CC=C2N=C1 | C8H6N2O
reactant | 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide | 3.00 mmol | [I-].C[N+]1=CN(C=C1)C(N(C1=CC=CC=C1)C)=O
reactant | triethylamine | 3.00 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Methyl-phenyl-carbamic acid quinoxalin-2-yl ester | 0.65 g, 77% yield | N1=C(C=NC2=CC=CC=C12)OC(N(C1=CC=CC=C1)C)=O | C16H13N3O2
